US07205403B2
To a solution of ethyl (5-carboxy-1-methylpyrazol-3-yl)oxyacetic acid (0.5 mmol) and EDCl (0.5 mmol) in methanol (20 mL) was added a solution of 1,3-diallyl-5,6-diaminouracil (0.5 mmol), dissolved in methanol (20 mL). The mixture was stirred at room temperature for two hours, the solvent was then removed in vacuo, water added, and the solid that formed was collected by filtration and washed with additional cold water. The intermediate amide was heated in 20 mL of 2.5 N NaOH at 70° C. for 30 minutes to afford the desired 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methyl-pyrazol-3-yl)oxyacetic acid.

reactant | ethyl (5-carboxy-1-methylpyrazol-3-yl)oxyacetic acid | 0.5 mmol | C(C)C(C(=O)O)OC1=NN(C(=C1)C(=O)O)C | C9H12N2O5
reactant | EDCl | 0.5 mmol | CCN=C=NCCCN(C)C.Cl
reactant | 1,3-diallyl-5,6-diaminouracil | 0.5 mmol | C(C=C)N1C(=O)N(C(=O)C(=C1N)N)CC=C | C10H14N4O2
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 2-[5-(1,3-diallyl-xanthin-8-yl)-1-methyl-pyrazol-3-yl)oxyacetic acid | C(C=C)N1C(=O)N(C=2N=C(NC2C1=O)C1=CC(=NN1C)OCC(=O)O)CC=C | C17H18N6O5
